US04335136
A. 1-[4,5-Bis(4-fluorophenyl)-1H-pyrrol-2-yl]-2,2,2-trifluoroethanone
To a solution of 2.5 g (0.012 mole) of trifluoroacetic anhydride in 30 ml ether at 0° was added dropwise a solution of 2.6 g (0.01 mole) of 2,3-bis(4-fluorophenyl)-1H-pyrrole and 1.5 g (0.012 mole) of N,N-dimethylaniline in 20 ml ether. The reaction mixture was stirred at 0° for 1.5 hours, then diluted with more ether, washed successively with water, 1 N hydrochloric acid, then water again. The organic layer was dried and concentrated and the residue was purified by chromatography on silica gel, eluting with toluene, to give 2.7 g of white product, m.p. 211°-212° (recrystallized from methyl cyclohexane/toluene).

reactant | trifluoroacetic anhydride | 0.012 mole, 2.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2,3-bis(4-fluorophenyl)-1H-pyrrole | 0.01 mole, 2.6 g | FC1=CC=C(C=C1)C=1NC=CC1C1=CC=C(C=C1)F | C16H11F2N
reactant | N,N-dimethylaniline | 0.012 mole, 1.5 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-[4,5-Bis(4-fluorophenyl)-1H-pyrrol-2-yl]-2,2,2-trifluoroethanone | FC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)F)C(C(F)(F)F)=O | C18H10F5NO
